US05486617
A solution of 5.00 g (35.67 mmol) of 2-butyl-2-imidazolin-5-one and 7.02 g (39.24 mmol) of N,N-dimethylformamide diisopropyl acetal in 25 ml of methylene chloride was stirred at room temperature for 2.5 hours. Then, the solvent was removed on a Rotavapor, and the residue was treated with 40 ml of methylene chloride. The solution thus obtained was washed twice, each time with 10 ml of water, and dried (MgSO4) and concentrated on the Rotavapor. The residue was then dried in a high vacuum. 5.37 g of 2-butyl-4-dimethylaminomethylene-2-imidazolin-5-one was obtained; the product had a content of greater than 90 percent, according to H-NMR. This corresponds to a yield of about 71 percent, based on the 2-butyl-2-imidazolin-5-one.

reactant | 2-butyl-2-imidazolin-5-one | 35.67 mmol, 5.00 g | C(CCC)C=1NC(CN1)=O | C7H12N2O
reactant | N,N-dimethylformamide diisopropyl acetal | 39.24 mmol, 7.02 g | C(C)(C)OC(N(C)C)OC(C)C | C9H21NO2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-butyl-4-dimethylaminomethylene-2-imidazolin-5-one | 5.37 g, yield of about 71 percent | C(CCC)C=1NC(C(N1)=CN(C)C)=O | C10H17N3O
